US05905149
N-{2-[5-(2-oxindol-3-ylidenemethyl)quinol-8-yloxy]propionyl} alanine sodium salt.
To a solution of N-{2-[5-(2-oxindol-3-ylidenemethyl)quinol-8-yloxy]propionyl} alanine methyl ester (50 mg, 0.11 mmol) in THF (10 ml) was added dropwise 2N sodium hydroxide (0.1 ml) at 0-50° C. After 4h stirring at room temperature THF (100 ml) was added, the organic layer washed 3 times with saturated sodium chloride solution, dried over magnesium sulfate and concentrated under vacuum. The residue was taken up in 5% sodium bicarbonate (10 ml) and chromatographed on a LoBar RP18 column using as eluant water/methanol (7:3) to give pure title compound in 84-yield (42 mg).

reactant | N-{2-[5-(2-oxindol-3-ylidenemethyl)quinol-8-yloxy]propionyl} alanine methyl ester | 0.11 mmol, 50 mg | COC([C@@H](NC(C(C)OC=1C=CC(=C2C=CC=NC12)C=C1C(NC2=CC=CC=C12)=O)=O)C)=O | C25H23N3O5
reactant | sodium hydroxide | 2N, 0.1 ml | [OH-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | N-{2-[5-(2-oxindol-3-ylidenemethyl)quinol-8-yloxy]propionyl} alanine sodium salt | [Na+].N1C(C(C2=CC=CC=C12)=CC1=C2C=CC=NC2=C(C=C1)OC(C(=O)N[C@@H](C)C(=O)[O-])C)=O | InChI=1S/C24H21N3O5.Na/c1-13(24(30)31)26-22(28)14(2)32-20-10-9-15(16-7-5-11-25-21(16)20)12-18-17-6-3-4-8-19(17)27-23(18)29;/h3-14H,1-2H3,(H,26,28)(H,27,29)(H,30,31);/q;+1/p-1/t13-,14?;/m0./s1
